US04910202
A mixture of 3.41 g (15.5 mmol) of 2-trifluoromethyl-4-(1,1-dimethylethyl)phenol (see E. Stokker, et al, J. Med. Chem., 23:1414 (1980) as an example of how to obtain this material) and 2.24 g (16.0 mmol) of hexamethylenetetramine was refluxed in 30 ml of trifluroacetic acid for 5 hours. The solution was cooled to ambient temperature and diluted with 200 ml of water. The aqueous residue was extracted with hexane. The organic phase was washed with saturated sodium bicarbonate solution, dried and evaporated. The residue was chromatographed on 100 g of silica gel using hexane as eluent. There was obtained 1.54 g (6.25 mmol, 40%) of 2-hydroxy-3-trifluromethyl-5-(1,1-dimethylethyl)benzaldehyde as a white solid; mp 56°-57.5° C.

reactant | 2-trifluoromethyl-4-(1,1-dimethylethyl)phenol | 15.5 mmol, 3.41 g | FC(C1=C(C=CC(=C1)C(C)(C)C)O)(F)F | C11H13F3O
reactant | hexamethylenetetramine | 16.0 mmol, 2.24 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 200 ml | O | H2O
product | 2-hydroxy-3-trifluromethyl-5-(1,1-dimethylethyl)benzaldehyde | 6.25 mmol, 1.54 g, 40% | OC1=C(C=O)C=C(C=C1C(F)(F)F)C(C)(C)C | C12H13F3O2
